### PR TITLE
feat(Topology/Group/Profinite): limits in the category of profinite groups

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Basic Properties of Profinite Group
Co-authored-by: Jujian Zhang <jujian.zhang1998@outlook.com> Nailin Guan <3571819596@qq.com>

---

- [x] depends on: #16648

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 1]
```diff
@@ -24,9 +23,14 @@ disconnected.
 * `ofFiniteGrp` : A `FiniteGrp` when given the discrete topology can be considered as a
   profinite group.
 
+* `ofContinuousMulEquivProfiniteGrp` : If a topological group have a two-sided continuous
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:26]:
```suggestion
* `ofContinuousMulEquivProfiniteGrp` : If a topological group has a two-sided continuous
```

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 2]
```diff
@@ -24,9 +23,14 @@ disconnected.
...
+  isomorphism to a profinite group then it is profinite as well.
+
+* `ofClosedSubgroup` : The closed subgroup of a profinite group is profinite.
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:29]:
```suggestion
* `ofClosedSubgroup` : A closed subgroup of a profinite group is profinite.
```

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 3]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
     map := fun f => f.toMonoidHom
   }
 
+/-- A topological group that has a ContinuousMulEquiv to a profinite group is profinite -/
+def ofContinuousMulEquivProfiniteGrp {G : ProfiniteGrp.{u}} {H : Type v} [TopologicalSpace H]
+    [Group H] [TopologicalGroup H] (e : ContinuousMulEquiv G H) : ProfiniteGrp.{v} :=
+  letI : CompactSpace H := Homeomorph.compactSpace e.toHomeomorph
+  letI : TotallyDisconnectedSpace G := Profinite.instTotallyDisconnectedSpaceαTopologicalSpaceToTop
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:172]: Should typeclass inference already be picking this up?

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 4]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+  letI : TotallyDisconnectedSpace H := Homeomorph.totallyDisconnectedSpace e.toHomeomorph
+  .of H
+
+/-- The closed subgroup of a profinite group is profinite -/
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:176]:
```suggestion
/-- A closed subgroup of a profinite group is profinite. -/
```

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 5]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+* Verify that the constructed limit satisfies the universal property.
+-/
+
+section Profiniteoflimit
+
+open TopologicalGroup
+
+universe w w'
+
+variable {J : Type v} [Category.{w, v} J] (F : J ⥤ FiniteGrp.{max v w'})
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:200]: Will this cause problems if I am working in `FiniteGrp.{u}` and I have some category `J` which is just Nat with a -> b if a >= b? Then w=v=0.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 6]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+  IsClosed.isCompact <| limit_closed_in_pi_type F
+
+end FiniteGrp
+
+namespace ProfiniteGrp
+
+/-- Making the direct limit of `FiniteGrp` into a `ProfiniteGrp`. -/
+def ofFiniteGrpLimit : ProfiniteGrp := .of (FiniteGrp.limit F)
+
+/-- Verify that the limit constructed above exist projections to the `FiniteGrps`
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:254]:
```suggestion
/-- Verify that the limit constructed above has projections to the `FiniteGrp`s
```

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean [hunk 7]
```diff
@@ -391,3 +391,43 @@ theorem locallyCompactSpace_of_hasBasis (V : ℕ → Set Y)
...
+
+section
+
+universe u v
+
+variable (G : Type u) [Group G] [TopologicalSpace G] [TopologicalGroup G] (H : Type v)
+  [Group H] [TopologicalSpace H] [TopologicalGroup H]
+
+/-- Define the structure of two-sided continuous isomorphism. -/
+structure ContinuousMulEquiv extends MulEquiv G H , Homeomorph G H
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:403]: I think that this structure needs a proper API (e.g. `ContinuousMulEquivClass`, `ext`, `refl`, `copy`...) and should probably be its own PR.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 3 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:172]: I don't think so, the continuousmulequiv and profinitegrp even the totally diconnected of homeomorphic are all newly added by me not as a class, I still didn't solve these problems.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:200]: I think it is jujian who design the universe level, sorry that I don't know clearly about these problems.

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean (hunk 7 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:403]: Maybe I can start a new PR to solve this. So where can I learn from to write these APIs?

Comment (faenuccio) [reply Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:403]: I agree with @kbuzzard that some API is needed (you can have a look at lines 136-186 of the file Mathlib/Algebra/Group/Equiv/Basic.lean where they are defined); but I think that even before that you should consider extending the `MulEquiv` class as explained in line 100 there.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 8]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+/-- A topological group that has a ContinuousMulEquiv to a profinite group is profinite. -/
+def ofContinuousMulEquivProfiniteGrp {G : ProfiniteGrp.{u}} {H : Type v} [TopologicalSpace H]
+    [Group H] [TopologicalGroup H] (e : ContinuousMulEquiv G H) : ProfiniteGrp.{v} :=
+  letI : CompactSpace H := Homeomorph.compactSpace e.toHomeomorph
+  letI : TotallyDisconnectedSpace G := Profinite.instTotallyDisconnectedSpaceαTopologicalSpaceToTop
+  letI : TotallyDisconnectedSpace H := Homeomorph.totallyDisconnectedSpace e.toHomeomorph
+  .of H
+
+/-- A closed subgroup of a profinite group is profinite. -/
+def ofClosedSubgroup {G : ProfiniteGrp}
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:177]: Did I remember wrongly or you defined the class of closed subgroups in another PR?

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 9]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+    (H : Subgroup G) (hH : IsClosed (H : Set G)) : ProfiniteGrp :=
+  letI : CompactSpace H := isCompact_iff_compactSpace.mp (IsClosed.isCompact hH)
+  of H
+
+end ProfiniteGrp
+
+/-!
+# The projective limit of finite groups is profinite
+
+* `FiniteGrp.limit` : the concretely constructed limit of finite group as a subgroup of the pi-type
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:187]:
```suggestion
* `FiniteGrp.limit` : the concretely constructed limit of finite groups as a subgroup of the pi-type
```

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 10]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+
+* `ofFiniteGrpLimit`: direct limit of finite groups is a profinite group
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:189]: Do you mean inverse limit? At any rate, you should use a consistent wording: either injective/projective or direct/inverse (possibly agreeing with what is already used in other parts of the library).

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 11]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+
+section Profiniteoflimit
+
+open TopologicalGroup
+
+universe w w'
+
+variable {J : Type v} [Category.{w, v} J] (F : J ⥤ FiniteGrp.{max v w'})
+
+attribute [local instance] ConcreteCategory.instFunLike ConcreteCategory.hasCoeToSort
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:202]: These does not seem to be needed. Why are they added?

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 12]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+
+instance (j : J) : TopologicalSpace (F.obj j) := ⊥
+
+instance (j : J) : DiscreteTopology (F.obj j) := ⟨rfl⟩
+
+instance (j : J) : TopologicalGroup (F.obj j) := {}
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:208]: This seems a bit strange to me. Why don't you add the local instance that every finite group is a Topological group? BTW: I would put most/all of these material in a namespace, whereas it is now in `_root`.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 13]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+  carrier := {x | ∀ ⦃i j : J⦄ (π : i ⟶ j), F.map π (x i) = x j}
+  mul_mem' hx hy _ _ π := by simp only [Pi.mul_apply, map_mul, hx π, hy π]
+  one_mem' := by simp only [Set.mem_setOf_eq, Pi.one_apply, map_one, implies_true]
+  inv_mem' h _ _ π := by simp only [Pi.inv_apply, map_inv, h π]
+
+@[simp]
+lemma mem_limit (x : Π j : J, F.obj j) : x ∈ limit F ↔
+    ∀ ⦃i j : J⦄ (π : i ⟶ j), F.map π (x i) = x j := Iff.rfl
+
+lemma limit_closed_in_pi_type : IsClosed ((limit F) : Set (Π j : J, F.obj j)) := by
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:223]: This has nothing to do with groups, it is also true for topological spaces. Cannot you borrow anything from the library? Have you tried?

File: Mathlib/Topology/Homeomorph.lean [hunk 14]
```diff
@@ -311,6 +311,14 @@ protected theorem t3Space [T3Space X] (h : X ≃ₜ Y) : T3Space Y :=
 protected theorem denseEmbedding (h : X ≃ₜ Y) : DenseEmbedding h :=
   { h.embedding with dense := h.surjective.denseRange }
 
+universe u v in
+protected lemma totallyDisconnectedSpace {A : Type u} [TopologicalSpace A]
```
Comment (faenuccio) [inline Mathlib/Topology/Homeomorph.lean:315]: Why do you need to introduce fresh variables `A` and `B` with their universes? Can't you use the trilion of spaces already in scope?

**Review by faenuccio — COMMENTED** [review]
I left some comments, the most important one being the implementation of a `ContinuousMulEquivClass`.

**Comment by dagurtomas** [comment]
Could you try to modify this to show that `ProfiniteGrp` has all limits, and not just limits of finite groups?

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 15]
```diff
@@ -161,4 +165,169 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+    rwa [hy.1, hy.2]
+  have eq : limit F = ⋂ (i : J) (j : J) (π : i ⟶ j), S π := by
+    ext x
+    simp only [Subgroup.coeSubtype, Subtype.range_coe_subtype, SetLike.mem_coe, mem_limit,
+      Set.mem_setOf_eq, Set.mem_iInter]
+    tauto
+  exact eq ▸ isClosed_iInter fun i => isClosed_iInter fun j => isClosed_iInter fun π => hS π
+
+instance : CompactSpace (limit F) := isCompact_iff_compactSpace.mp <|
+  IsClosed.isCompact <| limit_closed_in_pi_type F
```
Comment (dagurtomas) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:245]:
```suggestion

variable {J : Type v} [SmallCategory J] (F : J ⥤ ProfiniteGrp.{max v w'})

namespace FiniteGrp

/-- Concretely constructing the limit of topological group as a subgroup of the  pi-type. -/
def limit : Subgroup (Π j : J, F.obj j) where
  carrier := {x | ∀ ⦃i j : J⦄ (π : i ⟶ j), F.map π (x i) = x j}
  mul_mem' hx hy _ _ π := by simp only [Pi.mul_apply, map_mul, hx π, hy π]
  one_mem' := by simp only [Set.mem_setOf_eq, Pi.one_apply, map_one, implies_true]
  inv_mem' h _ _ π := by simp only [Pi.inv_apply, map_inv, h π]

def profiniteGrpToProfinite : ProfiniteGrp ⥤ Profinite where
  obj G := G.toProfinite
  map f := ⟨f, by continuity⟩

instance : CompactSpace (limit F) := inferInstanceAs
  (CompactSpace (Profinite.limitCone (F ⋙ profiniteGrpToProfinite.{max v w'})).pt)
```
This works, for example, because your `limit` is defeq to the limit in `Profinite` (in line with Filippo's comment about `limit_closed_in_pi_type`)

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 8 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:177]: yes, I defined it, maybe I should change the dependency.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 10 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:189]: Sorry that I don't know the math clearly. I think I prove it satisfies the universal property.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 11 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:202]: Sorry that this part isn't design by me, maybe you should ask Jujian Zhang for it.

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean (hunk 7 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:403]: Thank you, I would start a new PR as soon as I am finish the PRs for Profinite

File: Mathlib/Topology/Homeomorph.lean (hunk 14 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Homeomorph.lean:315]: I would try to change it.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 15 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:245]: So what would need to change if we need smallcategory?(I haven't use it before)

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean (hunk 7 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:403]: So you are going to put this on hold?

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 8 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:177]: Well, if you have the class for closed subgroups, you should have `[ClosedSubgroup H]` as class variable.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 11 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:202]: @jjaassoonn Can you comment on this?

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 5 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:200]: @jjaassoonn This is for you then 😄

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 15 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:245]: If I write as you suggested, do I need to verify the universal property again? (I guess no?)

Comment (dagurtomas) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:245]: I think your proof will more or less work

Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:245]: reconstructed

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 16]
```diff
@@ -161,4 +165,137 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+      congr
+      exact funext fun x => (x.2 f).symm
+  }
+
+@[simp]
+lemma LimitCone_pt : (ProfiniteGrp.LimitCone F).pt =
+    ProfiniteGrp.ofLimit F := rfl
+
+@[simp, nolint simpNF]
+lemma LimitCone_π_app_apply  (j : J) (x : ↑(((CategoryTheory.Functor.const J).obj
```
Comment (jjaassoonn) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:247]: `x` is actually just `ofLimit F`

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 15 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: @dagurtomas But don't we have the same result for topological spaces so that we can deduce this one from that?

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 11 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: It is now removed,  so it won't matter much.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 15 above)
Comment (dagurtomas) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: I guess you mean something like this? It broke the proofs of `map_one'` and  `map_mul'` (sorried below), but that shouldn't be too hard to fix.

```lean
/-- Verify that the limit constructed above satisfies the universal property. -/
def LimitConeIsLimit : Limits.IsLimit (LimitCone F) where
  lift cone := {
    toFun := ((Profinite.limitConeIsLimit (F ⋙ profiniteGrpToProfinite.{max v w'})).lift 
      (profiniteGrpToProfinite.mapCone cone)).toFun
    map_one' := sorry
    map_mul' := sorry
    continuous_toFun := ((Profinite.limitConeIsLimit (F ⋙ profiniteGrpToProfinite.{max v w'})).lift 
      (profiniteGrpToProfinite.mapCone cone)).continuous }
```

Comment (faenuccio) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: Yes!

Comment (dagurtomas) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: The `fac` field is then handled by automation, I think the `uniq` field can be easily solved using `(Profinite.limitConeIsLimit (F ⋙ profiniteGrpToProfinite)).uniq` after proving that `profiniteGrpToProfinite` is faithful.

Comment (dagurtomas) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: Like this:
```lean
uniq cone m h := by
    have : profiniteGrpToProfinite.Faithful := sorry 
    apply this.map_injective 
    simpa using (Profinite.limitConeIsLimit (F ⋙ profiniteGrpToProfinite.{max v w'})).uniq
      (profiniteGrpToProfinite.mapCone cone) (profiniteGrpToProfinite.map m) 
      (fun j ↦ congrArg profiniteGrpToProfinite.map (h j))
```

Comment (dagurtomas) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: Here is the whole thing:

```lean
/-- Verify that the limit constructed above satisfies the universal property. -/
def LimitConeIsLimit : Limits.IsLimit (LimitCone F) where
  lift cone := {
    toFun := ((Profinite.limitConeIsLimit (F ⋙ profiniteGrpToProfinite)).lift
      (profiniteGrpToProfinite.mapCone cone)).toFun
    map_one' := by
      apply SetCoe.ext
      ext j
      exact map_one (cone.π.app j)
    map_mul' := fun _ _ ↦ by
      apply SetCoe.ext
      ext j
      exact map_mul (cone.π.app j) _ _
    continuous_toFun := ((Profinite.limitConeIsLimit (F ⋙ profiniteGrpToProfinite)).lift
      (profiniteGrpToProfinite.mapCone cone)).continuous }
  uniq cone m h := by
    have : profiniteGrpToProfinite.Faithful := sorry
    apply this.map_injective
    simpa using (Profinite.limitConeIsLimit (F ⋙ profiniteGrpToProfinite)).uniq
      (profiniteGrpToProfinite.mapCone cone) (profiniteGrpToProfinite.map m)
      (fun j ↦ congrArg profiniteGrpToProfinite.map (h j))
```

Unfortunately automation didn't kick in properly in the proofs of `map_one` and `map_mul`. Might be because of some missing simp lemmas in the `Profinite`/`CompHaus`/`TopCat` limit API.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 17]
```diff
@@ -161,4 +165,137 @@ instance : HasForget₂ ProfiniteGrp Grp where
...
+  map f := ⟨f, by continuity⟩
+instance : CompactSpace (limit F) := inferInstanceAs
+  (CompactSpace (Profinite.limitCone (F ⋙ profiniteGrpToProfinite.{max v w'})).pt)
+
+/-- Making the direct limit of `FiniteGrp` into a `ProfiniteGrp`. -/
+def ofLimit : ProfiniteGrp := .of (ProfiniteGrp.limit F)
+
+/-- Verify that the limit constructed above exist projections to the `FiniteGrps`
+that are compatible with the morphisms between them. -/
+def LimitCone : Limits.Cone F where
```
[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:224]: I forgot to change the stlye after deleting `FiniteGrp` , sorry

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 8 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:177]: sorry that it is still only a structure, I think I need to learn about the APIs to work on it.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 15 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: I got stuck when proving it, can anyone help? I found nothing to use about the multiplication.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 8 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:177]: No, it is me that was unclear, I am sorry. If you have a look at [Subgroup.Normal.mem_comm_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subgroup/Basic.html#Subgroup.Normal.mem_comm_iff) (I just picked up the first result about subgroups, there is nothing specific about this example), you see that once you have a class like `ClosedSubgroup` you can declare `H` to be a term of type `ClosedSubgroup G` instead of imposing that it is a subgroup _and_ it is closed. So the statement should look like 
```lean
def ofClosedSubgroup {G : ProfiniteGrp} (H : ClosedSubgroup G) : ProfiniteGrp :=...
```

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean (hunk 7 above)
Comment (jjaassoonn) [reply Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:403]: Don't forget an additive version of this

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 5 above)
Comment (jjaassoonn) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: No, the current design asks the universe level of the the finite groups to be bigger than that of the indexing category:

```lean
#check @limit ℕ _
-- limit : (F : ℕ ⥤ ProfiniteGrp.{u_1}) → Subgroup ((j : ℕ) → ↑(F.obj j).toProfinite.toTop)
```

So if the indexing category, the `ProfiniteGrp` can be anything

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean (hunk 7 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:403]: I would try to do this as soon as possible, right after fixing this PR and making the old proofs to fit the new definition (there are like thousand lines depending on the limit of profinite group)

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 8 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:177]: OK, I would rearrange the PRs as soon as possible.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 15 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: Thank you, I add the faithful as an instance. 20 lines less than the unmodified ones.

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean (hunk 8 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: rearranged, it is now stated as you suggested

**Comment by dagurtomas** [comment]
It seems to me that `ofContinuousMulEquivProfiniteGrp` is never used in the construction of limits in profinite groups. I would suggest removing all the stuff related to `ContinuousMulEquiv` from this PR and opening a new, independent PR with that (where you also develop more API for it, as Kevin suggested).

**Comment by Thmoas-Guan** [comment]
> It seems to me that `ofContinuousMulEquivProfiniteGrp` is never used in the construction of limits in profinite groups. I would suggest removing all the stuff related to `ContinuousMulEquiv` from this PR and opening a new, independent PR with that (where you also develop more API for it, as Kevin suggested).

There is one, #16961 ready for constructing the APIs , also it would be used in #16906 and #16918

**Comment by faenuccio** [comment]
> > It seems to me that `ofContinuousMulEquivProfiniteGrp` is never used in the construction of limits in profinite groups. I would suggest removing all the stuff related to `ContinuousMulEquiv` from this PR and opening a new, independent PR with that (where you also develop more API for it, as Kevin suggested).
> 
> There is one, #16961 ready for constructing the APIs , also it would be used in #16906 and #16918

And do you confirm that `ContinuousMulEquiv` is really not used in this one, so that you can remove it following @dagurtomas 's suggestion?

**Comment by Thmoas-Guan** [comment]
> > > It seems to me that `ofContinuousMulEquivProfiniteGrp` is never used in the construction of limits in profinite groups. I would suggest removing all the stuff related to `ContinuousMulEquiv` from this PR and opening a new, independent PR with that (where you also develop more API for it, as Kevin suggested).
> > 
> > 
> > There is one, #16961 ready for constructing the APIs , also it would be used in #16906 and #16918
> 
> And do you confirm that `ContinuousMulEquiv` is really not used in this one, so that you can remove it following @dagurtomas 's suggestion?

I am sure about this, I can remove it from this one and left it to #16906 and #16918

**Comment by dagurtomas** [comment]
So this PR should only contain changes to the `ProfiniteGrp` file

**Comment by dagurtomas** [comment]
All the stuff about closed/open subgroups is also irrelevant to the construction of limits

**Comment by Thmoas-Guan** [comment]
> All the stuff about closed/open subgroups is also irrelevant to the construction of limits

if compared with #16959 the only difference is in `ProfiniteGrp`

**Comment by dagurtomas** [comment]
Oh, but you should make those two independent

**Comment by Thmoas-Guan** [comment]
completely independent to other things
closed subgroup would be added in #16959
continuousMulEquiv would be refined in #16961

**Comment by dagurtomas** [comment]
Oof, something went wrong here, the diff is horrible. I think the easiest solution is to closed this and open a new PR based off the current master, where you only add the changes to the `ProfiniteGrp` file from this PR
